US04946839
18.5 mg (39 μmol) of N-[cis-N-benzyl-4-(benzyloxycarbonyl)azetidine-2-carbonyl]glycine benzyl ester in 10 ml of methanol is hydrogenated in a Parr shaker over 34.5 mg of 20% Pd (OH)2 /C (containing 31 % of water) under 4 atm of hydrogen for 4h, 5 ml of water is added, the catalyst is removed by filtration through a double paper filter and washed thoroughly with methanol/water (2:1), and the solution is evaporated. Filtration over SiO2 (isopropanol/water/conc ammonia 14:5:1), evaporation and drying in a vacuum desiccator over P2O5 and KOH affords 6.7 mg (85%) of N-(cis-4-carboxyazetidine-2-carbonyl)glycine as a colorless glass. 1H NMR (D2O):δ4.98 (t, 1H, J =8.5), 4.73 (t, 1H, overlapping), 3.86, 3.74 (AB system, 2H, J =17.5), 3.08 (dt, 1H, J =11.5 (d), 10 (t)), 2.55 (dt, 1H, J =I2 (d), 8.5 (t)).

reactant | N-[cis-N-benzyl-4-(benzyloxycarbonyl)azetidine-2-carbonyl]glycine benzyl ester | 39 μmol, 18.5 mg | C(C1=CC=CC=C1)OC(CNC(=O)[C@@H]1N([C@@H](C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C28H28N2O5
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
reactant | water | 5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | N-(cis-4-carboxyazetidine-2-carbonyl)glycine | 6.7 mg, 85% | C(=O)(O)[C@@H]1C[C@@H](N1)C(=O)NCC(=O)O | C7H10N2O5
